US08383673B2
The preparations of compounds used in this invention are shown in detail below. In general [nBu4N][OsVI(N)Cl4] is reacted with the ligand in a suitable organic solvent, such as methanol, ethanol or dichloromethane. The Schiff base ligands 5-X—H2salpa (salpa=N-salicylidene-2-aminophenol dianions) are synthesized by condensation of the appropriate 2-hydroxybenzyaldehyde with the 2-aminophenol in refluxing ethanol. The Schiff base ligand nalph is synthesized by condensation of the 2-hydroxy-1-naphthaldehyde with the 2-aminophenol in refluxing ethanol. [NnBu4][OsVI(N)Cl4] were prepared by a literature procedure (Griffith, W. P. and Pawson, D. J. J. Chem. Soc., Dalton Trans. 1973, 1315.).

reactant | methanol | CO | CH4O
reactant | 2-aminophenol | NC1=C(C=CC=C1)O | C6H7NO
reactant | 2-hydroxy-1-naphthaldehyde | OC1=C(C2=CC=CC=C2C=C1)C=O | C11H8O2
solvent | ethanol | C(C)O | C2H6O
solvent | dichloromethane | ClCCl | CH2Cl2
product | N-salicylidene-2-aminophenol | C(C=1C(O)=CC=CC1)=NC1=C(C=CC=C1)O | C13H11NO2
